US09034866B2
Synthesis of (±)-10-(4-(dimethylamino)-3-hydroxy-3-methyl-4-oxobut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-hydroxy-N,N,2-trimethylbut-3-ynamide to give 24.2 mg of the titled compound (13%),

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-hydroxy-N,N,2-trimethylbut-3-ynamide | OC(C(=O)N(C)C)(C#C)C | C7H11NO2
product | (±)-10-(4-(dimethylamino)-3-hydroxy-3-methyl-4-oxobut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 24.2 mg, 13% | CN(C(C(C#CC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F)(C)O)=O)C | C19H19FN4O4
